Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Adhesive Bandage
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None
attach
 
Pertinent Results:
ADMISSION LABS:
___ 04:30PM BLOOD WBC-10.4* RBC-4.54* Hgb-13.8 Hct-41.1 
MCV-91 MCH-30.4 MCHC-33.6 RDW-12.3 RDWSD-41.0 Plt ___
___ 04:30PM BLOOD Neuts-83.9* Lymphs-4.3* Monos-10.4 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-8.71* AbsLymp-0.45* 
AbsMono-1.08* AbsEos-0.01* AbsBaso-0.02
___ 04:30PM BLOOD Glucose-93 UreaN-13 Creat-1.1 Na-131* 
K-4.5 Cl-94* HCO3-23 AnGap-14

DISCHARGE LABS:
___ 07:00AM BLOOD WBC-5.6 RBC-4.93 Hgb-14.6 Hct-44.9 MCV-91 
MCH-29.6 MCHC-32.5 RDW-12.4 RDWSD-41.4 Plt ___
___ 07:00AM BLOOD Glucose-84 UreaN-10 Creat-1.0 Na-141 
K-4.5 Cl-103 HCO3-25 AnGap-13
___ 07:00AM BLOOD Calcium-9.7 Phos-3.5 Mg-2.2

MICRO:
BCx (___): pan-sensitive Klebsiella
BCx (___): no growth to date
BCx (___): no growth to date

UCx (___): pan-sensitive Klebsiella (intermediate to 
nitrofurantoin)

UCx (___): no growth

IMAGING:
IMPRESSION: 
No acute cardiopulmonary process.

DISCHARGE EXAM:
VITALS: ___ ___ Temp: 998.1 PO BP: 123/77 R Sitting HR: 67 
RR: 18 O2 sat: 99% O2 delivery: RA 
GENERAL: Alert, NAD
EYES: Anicteric, PERRL
ENT: mmm, OP clear
RESP: breathing room air comfortably
ABD/GI: Soft, ND, NTTP, normoactive bowel sounds
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
VASC/EXT: No ___ edema, 2+ DP pulses
SKIN: No rashes or lesions noted on visible skin
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, moves all limbs 
PSYCH: pleasant, appropriate affect
 
Brief Hospital Course:
SUMMARY: ___ yo M with recent prostate biopsy who presented with 
fever and dysuria and was found to have Klebsiella bacteremia 
and a Klebsiella UTI. 

# Klebsiella bacteremia
# Klebsiella UTI
# Recent prostate biopsy
In the ED, received vanco/cefepime.  On admission, he was 
initially treated broadly with vanco/cefepime/metronidazole 
pending culture data. His antibiotics were changed to PO 
ciprofloxacin once cultures and sensitivities returned. He will 
be treated with a 14 day course. 
He was seen by urology throughout this hospital stay who did not 
feel he needed any urologic intervention.

# Asymptomatic IPMN
He was seen by GI/Pancreas inpatient since he had an outpatient 
appointment with Dr. ___ while he was in-house. 
They recommended annual MRCP monitoring.

TRANSITIONAL ISSUES: 
[ ] Repeat MRCP in ___ year for monitoring of IPMN

>30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Glucosamine Chondroitin (glucos sul 2KCl-msm-chond-C-Mn) 
550-30-1 mg oral DAILY 
3. methylcellulose (with sugar) 2 gram/19 gram oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Ciprofloxacin HCl 500 mg PO BID 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*23 Tablet Refills:*0 
3.  Glucosamine Chondroitin (glucos sul 2KCl-msm-chond-C-Mn) 
550-30-1 mg oral DAILY  
4.  methylcellulose (with sugar) 2 gram/19 gram oral DAILY  
5.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Klebsiella bacteremia
Klebsiella urinary tract infection
Sepsis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted with fever/chills and pain urinating and were 
found to have a urinary tract infection and bacteremia. You were 
treated with antibiotics. You should continue to take the 
antibiotics at home as directed.
Follow up with your primary care doctor as detailed below.
Best wishes for your continued healing.
Take care,
Your ___ Care Team
 
Followup Instructions:
___